US07399759B2
tert-Butyl 3-[2-(methylthio)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate
tert-Butyl 3-[2-cyano-6-(methylthio)-4-pyridyl]propanoate (0.70 g, 2.50 mmol) and methyl thiosalicylate (0.84 g, 5.00 mmol) were dissolved in toluene (50 ml), and triethylamine (1.40 ml, 10.0 mmol) was added thereto. The reaction mixture was refluxed for 18 hrs, and the solvent was evaporated. The residue was recrystallized from hexane-ethyl acetate to give the titled compound (0.59 g, 57%) as pale yellow crystals.

reactant | tert-Butyl 3-[2-cyano-6-(methylthio)-4-pyridyl]propanoate | 2.50 mmol, 0.70 g | C(#N)C1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)SC | C14H18N2O2S
reactant | methyl thiosalicylate | 5.00 mmol, 0.84 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 10.0 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-[2-(methylthio)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 0.59 g, 57% | CSC1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H22N2O3S2
